*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.50e-02[uF]/80[V]
* Murata P/N :GCM2195C1K153JA16
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2195C1K153JA16 Port1 Port2
C01 Port1 N01 1.54e-08
R01 Port1 N01 6.67e+10
L02 N01 N02 7.60e-11
R03 N02 N03 4.43e-03
C04 N03 N04 2.43e-06
R04 N03 N04 1.65e+00
C05 N04 N05 6.69e-05
R05 N04 N05 3.21e-03
L06 N05 N06 1.24e-10
R06 N05 N06 2.33e-01
L07 N06 N07 7.20e-11
R07 N06 N07 3.68e-03
C08 N07 N08 3.66e-08
L08 N07 N08 5.37e-11
R08 N07 N08 2.90e-01
C09 N08 N09 2.23e-08
L09 N08 N09 3.87e-11
R09 N08 N09 2.74e-01
C10 N09 N10 7.48e-08
L10 N09 N10 5.53e-12
R10 N09 N10 6.71e-02
C11 N10 N11 2.77e-08
L11 N10 N11 9.27e-12
R11 N10 N11 9.39e-02
C12 N11 Port2 1.30e-12
L12 N11 Port2 1.72e-10
R12 N11 Port2 2.01e+02
.ENDS GCM2195C1K153JA16
